US07750185B2
7.30 g (27.6 mmol) (2E)-3-[3-methoxy-4-(pentyloxy)phenyl]prop-2-enoic acid were suspended in 3 ml acetonitrile. A mixture of 4.20 g (27.6 mmol) 1,8-diazabicyclo[5.4.0]undec-7-ene(1,5-5) (DBU) and 3 ml acetonitrile was added dropwise over a period of 5 minutes. 3.43 g (25.1 mmol) 6-chlorohexanol were added and the resulting mixture was then refluxed for 6 hours. The reaction mixture was cooled and then extracted using ethyl acetate and water. The ethyl acetate phase was washed with water, dried over sodium sulphate, filtered and concentrated by rotary evaporation. Chromatography of the residue using a silica gel column yield 6-hydroxyhexyl (2E)-3-[3-methoxy-4-(pentyloxy)phenyl]prop-2-enoate.

reactant | (2E)-3-[3-methoxy-4-(pentyloxy)phenyl]prop-2-enoic acid | 27.6 mmol, 7.30 g | COC=1C=C(C=CC1OCCCCC)/C=C/C(=O)O | C15H20O4
reactant | 6-chlorohexanol | 25.1 mmol, 3.43 g | ClCCCCCCO | C6H13ClO
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 6-hydroxyhexyl (2E)-3-[3-methoxy-4-(pentyloxy)phenyl]prop-2-enoate | COC=1C=C(C=CC1OCCCCC)/C=C/C(=O)OCCCCCCO | C21H32O5
